US06166219
A solution of 2.00 g of ethyl 3-butyrylamino-4-nitrobenzoate in 10 ml of N,N-dimethylformamide was added dropwise to a slurry of 0.428 g of 60% sodium hydride and 10 ml of N,N-dimethylformamide at room temperature, and the mixture was stirred for 30 minutes. A solution of 1.46 g of isopropyl iodide in 10 ml of N,N-dimethylformamide was then added dropwise thereto, and the mixture was stirred at 100° C. for 5 days. The reaction solution was poured into a mixed solution of 80 g of dilute hydrochloric acid and 80 g of ethyl acetate for separation. The resulting organic layer was washed with 50 g of water, and was then concentrated under reduced pressure. The residue was purified through silica-gel column chromatography (eluent: a mixture of hexane and ethyl acetate at a ratio of 4:1) to obtain 0.260 g of crude ethyl 4-nitro-3-(N-i-propylbutyrylamino)benzoate. Subsequently, 3 ml of ethanol and 2 ml of acetic acid were added to 0.260 g of ethyl 4-nitro-3-(N-i-propylbutyrylamino)benzoate at room temperature, and 0.519 g of reduced iron were further added thereto. The mixture was heat-refluxed for 4 hours. The solid material was removed using a filtration aid, and the filtrate was concentrated. The residue were added 30 ml of ethyl acetate and 30 ml of dilute hydrochloric acid for separation. The organic layer was washed with 30 ml of water, and was then concentrated under reduced pressure. The residue was purified through preparative thin-layer silica-gel chromatography (developing eluent: a mixture of hexane and ethyl acetate at a ratio of 1:1) to give 0.06 g of ethyl 4-amino-3-(N-i-propylbutyrylamino)benzoate.

reactant | ethyl 3-butyrylamino-4-nitrobenzoate | 2.00 g | C(CCC)(=O)NC=1C=C(C(=O)OCC)C=CC1[N+](=O)[O-] | C13H16N2O5
reactant | sodium hydride | 0.428 g | [H-].[Na+]
reactant | isopropyl iodide | 1.46 g | C(C)(C)I | C3H7I
reactant | hydrochloric acid | 80 g | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 80 g | C(C)(=O)OCC | C4H8O2
product | ethyl 4-nitro-3-(N-i-propylbutyrylamino)benzoate | 0.260 g | [N+](=O)([O-])C1=C(C=C(C(=O)OCC)C=C1)NC(CCCC(C)C)=O | C16H22N2O5
